US04431596
7.73 g of 30% aqeous glyoxal solution (40 mmols glyoxal), 16.17 g (80 mmols) of diphenylphosphine oxide and 40 ml of benzene were introduced into a round bottom flask. The initial pH of the reaction mixture was heated for 30 min with a water bath at 40° C. The precipitated white product was separated by filtration and weighed 16.64 g (90% yield) m.p. 211°-214° C. After recrystallization from dimethylsulfoxide-acetonitrile 3:2, V:V gave a sample of 1,2-dihydroxy-1,2-bis(diphenylphosphinyl)ethane m.p. 216°-217° C. Anal. Calcd for C26H24O4P2 : C,67.53; H, 5.23. Found: C,67.42; H, 5.34.

reactant | glyoxal | 40 mmols, 7.73 g | C(=O)C=O | C2H2O2
reactant | diphenylphosphine oxide | 80 mmols, 16.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)=O | C12H11OP
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 1,2-dihydroxy-1,2-bis(diphenylphosphinyl)ethane | 90% yield | OC(C(P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)O)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24O4P2
